US07230097B2
The aqueous solution containing Cefprozil as obtained above is converted to its DMF solvate as per the method disclosed in U.S. Pat. No. 4,694,079. The wet DMF solvate without drying is desolvated by stirring with a mixture of demineralised water (75 ml) and ethyl acetate (45 ml) for 60 minutes. The product is filtered and dried to give Cefprozil monohydrate in the form of an off white to pale yellow crystalline powder.

reactant | Cefprozil | C/C=C/C1=C(N2[C@@H]([C@@H](C2=O)NC(=O)[C@@H](C=3C=CC(=CC3)O)N)SC1)C(=O)O | C18H19N3O5S
solvent | DMF | CN(C)C=O | C3H7NO
product | Cefprozil monohydrate | C/C=C/C1=C(N2[C@@H]([C@@H](C2=O)NC(=O)[C@@H](C3=CC=C(C=C3)O)N)SC1)C(=O)O.O | InChI=1S/C18H19N3O5S.H2O/c1-2-3-10-8-27-17-13(16(24)21(17)14(10)18(25)26)20-15(23)12(19)9-4-6-11(22)7-5-9;/h2-7,12-13,17,22H,8,19H2,1H3,(H,20,23)(H,25,26);1H2/b3-2+;/t12-,13-,17-;/m1./s1
